US04668812
Into a 45 cc Parr bomb was added 2.5 g (0.02 mol) tritertbutoxysilane, 4.2 g (0.04 mol) styrene, 1.0 g xylene, 30 mg phenothiazine and 2000 ppm Ru3CO12 (20 mg). The reaction was heated in a fluidized sand bath at 175° C. for 5 hours. A single product 1-tritertbutoxysilyl-2-phenylethylene was formed in greater than 90% yield.

reactant | tritertbutoxysilane | 0.02 mol, 2.5 g | C(C)(C)(C)O[SiH](OC(C)(C)C)OC(C)(C)C | C12H28O3Si
reactant | styrene | 0.04 mol, 4.2 g | C=CC1=CC=CC=C1 | C8H8
reactant | phenothiazine | 30 mg | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | xylene | 1.0 g | C=1(C(=CC=CC1)C)C | C8H10
product | 1-tritertbutoxysilyl-2-phenylethylene | greater than 90% yield | C(C)(C)(C)O[Si](C=CC1=CC=CC=C1)(OC(C)(C)C)OC(C)(C)C | C20H34O3Si
